US05387603
To a solution of 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carboxamide (145 mg) in pyridine (0.5 ml) were added 4-dimethylaminopyridine (4 mg) and glutaric anhydride (51 mg), and the mixture was stirred at room temperature for 72 hours. The pH of the reaction mixture was adjusted to pH 7 with phosphate buffer solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by medium pressure liquid column chromatography on silica gel using a mixture of chloroform and methanol (9/1) as eluent to give 154 mg of 5-[5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]-7-carbamoylindolin- 1-yl]-5-oxopentanoic acid as an oil.

reactant | 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carboxamide | 145 mg | C(C)(C)(C)OC(=O)N(C(CC=1C=C2CCNC2=C(C1)C(=O)N)C)CCOC1=C(C=CC=C1)OCC | C27H37N3O5
reactant | glutaric anhydride | 51 mg | C1(CCCC(=O)O1)=O | C5H6O3
reactant | phosphate | P(=O)([O-])([O-])[O-]
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 4 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-[5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]-7-carbamoylindolin- 1-yl]-5-oxopentanoic acid | 154 mg | C(C)(C)(C)OC(=O)N(C(CC=1C=C2CCN(C2=C(C1)C(N)=O)C(CCCC(=O)O)=O)C)CCOC1=C(C=CC=C1)OCC | C32H43N3O8
